US09422290B2
3-benzyl-4-{8-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-6-yl}-1-methyl-1H-pyrazole II-12
3-benzyl-1-methyl-4-[3-methyl-8-(methylsulfanyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1H-pyrazole (32 mg; 0.09 mmol) was dissolved in 1 ml chloroform and was treated with sulfurylchlorid (44 μl; 0.54 mmol). The reaction mixture is stirred for 18 h at 25° C.

reactant | 3-benzyl-1-methyl-4-[3-methyl-8-(methylsulfanyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1H-pyrazole | 0.09 mmol, 32 mg | C(C1=CC=CC=C1)C1=NN(C=C1C=1C=C(C=2N(N1)C(=NN2)C)SC)C | C18H18N6S
reactant | sulfurylchlorid | 0.54 mmol, 44 μl | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-benzyl-4-{8-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-6-yl}-1-methyl-1H-pyrazole | C(C1=CC=CC=C1)C1=NN(C=C1C=1C=C(C=2N(N1)C(=NN2)C)Cl)C | C17H15ClN6
